US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-homoveratrylaminobutyric acid and methyl 4-aminobutyrate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-4-(homoveratrylamino)butyryl]-4-aminobutyric acid.

reactant | N-(p-chlorobenzoyl)-4-homoveratrylaminobutyric acid | ClC1=CC=C(C(=O)N(CCCC(=O)O)CCC2=CC(OC)=C(OC)C=C2)C=C1 | C21H24ClNO5
reactant | methyl 4-aminobutyrate | NCCCC(=O)OC | C5H11NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-4-(homoveratrylamino)butyryl]-4-aminobutyric acid | ClC1=CC=C(C(=O)N(CCCC(=O)NCCCC(=O)O)CCC2=CC(OC)=C(OC)C=C2)C=C1 | C25H31ClN2O6
